US09371281B2
To a solution of commercially available 1H-indole-6-carboxylic acid methyl ester (0.35 g, 2.0 mmol) and 4-difluoromethoxy-benzyl bromide (0.52 g, 2.2 mmol) in DMF (2 mL) was added sodium hydride (92 mg, 2.3 mmol). After stirring at room temperature for 3.5 hr, the solution was diluted with water (25 mL) and ethyl acetate (75 mL), the organic layer was washed again with dilute NaHCO3 (25 mL) and then brine (25 mL). The organic layer was dried over Na2SO4, filtered and concentrated. The remaining residue was subjected to flash chromatography (ethyl acetate/hexane, 1:5) to provide 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester as a colorless oil (0.14 g, 21% yield).

reactant | 1H-indole-6-carboxylic acid methyl ester | 2.0 mmol, 0.35 g | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | 4-difluoromethoxy-benzyl bromide | 2.2 mmol, 0.52 g | FC(OC1=CC=C(CBr)C=C1)F | C8H7BrF2O
reactant | sodium hydride | 2.3 mmol, 92 mg | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-difluoromethoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester | 0.14 g, 21% yield | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)OC(F)F | C18H15F2NO3
